Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-0.83139408904
[C:1][C:2][O:3].[C:4]([H:5])#[C:6][O:7]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]=[O:7],-0.76999237522
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][H:10].[O:9],7.998250813619999
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:5].[O:1]=[C:2]([H:3])/[C:4]=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11],5.05937866462
[H:1].[O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.42937121209
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][O:9][C:10]([H:11])[H:12],4.45585844348
[H:1][C:2]([H:3])[O:5][C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.44963348591
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]=[O:7].[H:8]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6](=[O:7])[H:8],-2.76312156913
[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3](\[O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],6.1660876671099984
[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][H:4].[O:5]=[C:6][C:7]([H:8])([H:9])[O:10][H:11],-1.7574970243
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:10][C:11]([H:12])([H:13])[H:14].[H:9],1.76501632417
[C:1]#[C:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2].[C:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],4.9200136965
[H:11].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.45284784417
[C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])[H:9].[O:1]>>[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])[H:9],-7.93134823098
[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[C:4]([H:5])([H:6])[H:7].[O:1][C:2][C:3],4.274547676530002
[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])=[C:8][H:9])[C:11]([H:12])([H:13])[H:14],4.99411898111
[C:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8]>>[C:1][O:2][C:3]#[C:4][O:5][C:6][H:7].[H:8],4.36907223442
[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-6.134402256919999
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],1.3967416627899998
[H:11].[H:1][C:2]([H:3])/[C:4](=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])/[C:4](=[C:5](/[H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.1696419222400003
[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])[O:8][H:9]>>[C:2]#[C:3][C:4]#[C:5][C:6]([H:7])[O:8][H:9].[H:1],4.48694276673
[H:1][O:2][C:3][C:10]([C:4][O:5][C:6]([H:7])([H:8])[H:9])([H:11])[H:12]>>[H:1][O:2][C:3]1=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]1([H:11])[H:12],-2.49448673067
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[O:3],0.977087569389
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:4],3.83080996832
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.43889388593
[C:1]#[C:2][C:11]([H:12])([H:13])[H:14].[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.8226607226
[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][O:3][C:4]([H:5])=[C:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:6],1.84017503597
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:3]#[C:4][H:5].[H:1][C:2][C:6]([H:7])([H:8])[C:9]#[C:10][H:11],7.02033880101
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[H:8].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:9][H:10],1.64491272873
